* temperature mechanism probe: before
.temp 125
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
* temperature readback, isolated from the rings
Iprobe 0 nprobe DC 0.001
Rprobe nprobe 0 1000 tc1=0.01

.tran 1n 10n
.control
run
meas tran vprobe FIND v(nprobe) AT=5n
.endc
.end
